US06087371
1,6-Dimethyl-8β-methyl-[5-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-3-yl]-10α-methoxy-ergoline
To a stirred solution of 2 g of 6-methyl-8β-methyl-[5-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-3-yl]-10α-methoxy-ergoline in ml 30 of dimethylsulphoxide was added at room temperature, 0.5 g of finely ground sodium hydroxyde. After stirring for 30 mins., a solution of 0.9 g of methyl iodide in m 10 of dimethylsulphoxide was added and the stirring was continued for 1 hour.

reactant | 6-methyl-8β-methyl-[5-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-3-yl]-10α-methoxy-ergoline | 2 g | CN1C[C@@](C[C@@]2(C=3C=CC=C4NC=C(C[C@@H]12)C34)OC)(C)C3=NOC(=N3)C=3C=NC=C(C3)Br | C24H24BrN5O2
reactant | sodium | [Na] | Na
reactant | methyl iodide | 0.9 g | CI | CH3I
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
product | 1,6-Dimethyl-8β-methyl-[5-(5-bromo-pyridin-3-yl)-1,2,4-oxadiazol-3-yl]-10α-methoxy-ergoline | CN1C=C2C[C@H]3N(C[C@@](C[C@@]3(C=3C=CC=C1C32)OC)(C)C3=NOC(=N3)C=3C=NC=C(C3)Br)C | C25H26BrN5O2
